US07091353B2
3-[(Benzofuran-2-ylmethyl)-amino]-phthalic acid
3-[(Benzofuran-2-ylmethyl)-amino]-phthalic acid dimethyl ester (1.12 g, 3.3 mmol) was treated in the same manner as described above for the synthesis of 3-(2-methoxy-ethylamino)-phthalic acid. The product of the reaction, which contained a mixture of diacid and monomethyl esters, was used without further purification.

reactant | 3-[(Benzofuran-2-ylmethyl)-amino]-phthalic acid dimethyl ester | 3.3 mmol, 1.12 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1OC2=C(C1)C=CC=C2)=O | C19H17NO5
reactant | 3-(2-methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
product | 3-[(Benzofuran-2-ylmethyl)-amino]-phthalic acid | O1C(=CC2=C1C=CC=C2)CNC2=C(C(C(=O)O)=CC=C2)C(=O)O | C17H13NO5
